US08357694B2
(S)-6-(2-fluorophenyl)-N-(3-(2-(4-(2-methoxyethyl)piperazin-1-yl)ethyl)phenyl)-5,6-dihydrobenzo[h]quinazolin-2-amine
This was synthesized by using (S)-4-(6-(2-fluorophenyl)-5,6-dihydrobenzo[h]quinazolin-2-ylamino)phenethyl methanesulfonate, 1-(2-methoxyethyl)piperazine and triethylamine as described in general procedure 6 to afford the desired product as hydrochloride salt. M.p.=148-150° C. 1H NMR 400 MHz (CDCl3) δ 8.42 (d, J=7.6 Hz, 1 H), 8.15 (s, 1 H), 7.59-7.54 (m, 2 H), 7.46-7.37 (m, 2 H), 7.29-7.25 (m, 1 H), 7.19-7.13 (m, 2 H), 7.09-7.04 (m, 2 ), 6.94-6.87 (m, 2 H), 6.75 (t, J=7.6 Hz, 1 H), 4.67 (t, J=6.4 Hz, 1 H), 3.52 (t, J=5.2 Hz, 2 H), 3.35 (s, 2 H), 3.21-3.08 (m, 2 H), 2.86-2.82 (m, 2 H), 2.69-2.58 (m, 13 H). LCMS m/e 538 (M+H).

reactant | (S)-4-(6-(2-fluorophenyl)-5,6-dihydrobenzo[h]quinazolin-2-ylamino)phenethyl methanesulfonate | CS(=O)(=O)OCCC1=CC=C(C=C1)NC1=NC=2C3=C([C@H](CC2C=N1)C1=C(C=CC=C1)F)C=CC=C3 | C27H24FN3O3S
reactant | 1-(2-methoxyethyl)piperazine | COCCN1CCNCC1 | C7H16N2O
reactant | triethylamine | C(C)N(CC)CC | C6H15N
product | (S)-6-(2-fluorophenyl)-N-(3-(2-(4-(2-methoxyethyl)piperazin-1-yl)ethyl)phenyl)-5,6-dihydrobenzo[h]quinazolin-2-amine | FC1=C(C=CC=C1)[C@H]1CC=2C=NC(=NC2C2=C1C=CC=C2)NC2=CC(=CC=C2)CCN2CCN(CC2)CCOC | C33H36FN5O
